US03954753
Preparation of 3-benzoyl-2-(2-bromoacetamido)-5-chloropyrazine
2-Amino-3-benzoyl-5-chloropyrazine (0.9 g or 4 mmol) was reacted as described in Example 5 with 8.1 g. (0.04 mol) of 2-bromoacetyl bromide in 25 ml. methylene chloride and 25 ml. of 10% aqueous sodium carbonate solution. The same work up yielded 1 g. (71%) of the above-named product with a melting point of 120°-125° dec. Recrystallization from methylene chloride/petroleum ether afforded colorless needles with a melting point of 124°-126° dec.

reactant | 2-Amino-3-benzoyl-5-chloropyrazine | 4 mmol, 0.9 g | NC1=NC=C(N=C1C(C1=CC=CC=C1)=O)Cl | C11H8ClN3O
reactant | 2-bromoacetyl bromide | 0.04 mol | BrCC(=O)Br | C2H2Br2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-benzoyl-2-(2-bromoacetamido)-5-chloropyrazine | C(C1=CC=CC=C1)(=O)C=1C(=NC=C(N1)Cl)NC(CBr)=O | C13H9BrClN3O2
